US07683091B2
N-[1-(1-Hydrazinocarbonyl-2-phenyl-ethyl)-1H-indol-5-yl]-4-trifluoromethoxy-benzenesulfonamide was prepared from 2-(5-amino-indol-1-yl)-3-phenyl-propionic acid hydrazide following the procedure of Example 2 Step 1 substituting 4-trifluoro methoxy-benzene sulfonyl chloride for benzenesulfonyl chloride: MS (ESI) m/z 519, MS (ESI) m/z 517.

reactant | 2-(5-amino-indol-1-yl)-3-phenyl-propionic acid hydrazide | NC=1C=C2C=CN(C2=CC1)C(C(=O)NN)CC1=CC=CC=C1 | C17H18N4O
reactant | 4-trifluoro methoxy-benzene sulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[1-(1-Hydrazinocarbonyl-2-phenyl-ethyl)-1H-indol-5-yl]-4-trifluoromethoxy-benzenesulfonamide | N(N)C(=O)C(CC1=CC=CC=C1)N1C=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C24H21F3N4O4S
